2187-12-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2187-12-29**] 12:00 AM
   No events overnight.
   This AM, patient reports feeling fine, breathing comfortable.  Feels
   hot now that she has been rewarmed.  Also has nasal congestion.  Denies
   pain, would like to go home.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-28**] 11:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-28**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 69 (55 - 69) bpm
   BP: 141/50(73) {123/44(65) - 142/62(82)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 93%
             Total In:
                                                                    270 mL
                                                                    200 mL
   PO:
                                                                    120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    290 mL
   Urine:
                                                                    450 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 6L
   SpO2: 93%
   ABG: ///14/
   Physical Examination
   Gen: awake and alert, generally chronically ill-appearing female
   HEENT: NCAT, PERRL, OP clear, MMM
   CV: Regular rhythm, normal rate. 2/6 systolic murmur at RUSB.
   Pulm: crackles at left base, halfway up on right
   ABDOMEN: NABS. Soft, NT, ND. No HSM, hypoactive BS
   EXTREMITIES:  All toes amputated on left foot, first toe amputation on
   right, with surrounding erythema overlying eschar no drainage, no
   fluctuance.  BL LE edema +1.  No calf pain, 1+ dorsalis pedis/
   posterior tibial pulses.
   Labs / Radiology
   257 K/uL
   7.6 g/dL
   43 mg/dL
   3.7 mg/dL
   12 mEq/L
   5.1 mEq/L
   112mg/dL
   115 mEq/L
   144 mEq/L
   24.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
   WBC
   4.9
   7.5
   Hct
   25.1
   24.1
   Plt
   249
   257
   Cr
   3.5
   TropT
   0.06
   Glucose
   95
   Other labs: PT / PTT / INR:17.0/39.7/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:82.7 %, Lymph:13.4 %, Mono:2.8 %, Eos:0.9 %, LDH:187
   IU/L
   TSH 5
   Cortisol 16.5
   Imaging: CXR this AM shows ? interval improvement in right pleural
   effusion.  overall consistent with pulm edema
   Microbiology: [**12-29**] influenza DFA pend
   [**12-28**] U Cx pend
   [**12-28**] Blood Cx pend
   Assessment and Plan
   60 yo female with history of CKD, idiopathic dilated cardiomyopathy EF
   50-55%, hypothyroidism, hypertension, PAD, DM admitted for hypothermia
   and hypoxia.
   .
 HYPOXEMIA:  The patient has evidence of new bilateral pleural
   effusions compared to CXR on [**2187-11-4**].  Differential includes
   parapneumonic effusion, flu or other viral illness, worsening heart
   failure or least likely PE.  The patient does not have a convincing
   history for pneumonia, especially considering lack of leukocytosis and
   sputum production.  The patient has history of dilated cardiomyopathy
   with most recent echo in [**2-19**] demonstrating preserved EF of 50-55%.
   However, today's CXR shows cardiomegaly and CEs mildly elevated (though
   this is at her baseline) and no ECG changes.  Least likely to be PE,
   however will rule out with LENIs in AM.  Will treat empirically for
   HAP, rule out flu and maintain even fluid balance to treat both
   potential etiologies with further workup in AM.
   - CE slightly elevated but at pt
s baseline x 2
   - will get PA and Lat CXR to better evaluate for consolidation and
   size/symmetry of effusions
   - consider diagnostic thoracentesis this AM
   - Supplemental O2 PRN
   - TTE in AM to determine systolic function
   - LENIS in AM
   - Empiric antibiotics with vancomycin/zosyn/levofloxacin; will narrow
   as appropriate
   - will recheck vanc trough at noon
   - gentle diuresis today with goal 500-1L neg
   - Droplet precautions, tamiflu until DFA returns
   .
 HYPOTHERMIA:  The patient was markedly hypothermic on admission
   without history of exposure, confirmed with patient and her HCP.  The
   patient's hypothermia may be secondary to systemic stress in the
   setting of multiple comorbidities including hypothyroidism, however TSH
   and cortisol within normal limits.  Cannot exclude overwhelming
   infection as cause of hypothermia, however less likely given lack of
   leukocytosis, tachycardia, or hypotension.  However, will treat
   empirically for pulmonary and skin source of infection until blood
   cultures return negative.
   - Empiric antibiotics of vanc/levo/zosyn for nosocomial infection as
   above
   - F/U culture data
   - Continue home dose of levothyroxine
   - Continue to rewarm
   .
   #.  Sinus Bradycardia:  Likely secondary to the patient's home CCB and
   betablocker dosing given recent visit to outpatient cardiologist HR was
   also in the 50s.
   - will restart carvedilol this am, and amlodopine in PM if remains
   stable
   .
   #.  Non-gap metabolic acidosis:  Most likely secondary to patient's
   chronic renal failure, although mildly worse than baseline.  Will
   continue to monitor and replete bicarb as needed.
   .
   #.  Chronic Kidney Disease:  The patient's current renal function is at
   baseline, but very elevated.  Renal has been consulted in the past for
   evaluation, thought to be secondary to diabetic nephropathy worsened by
   contrast induced nephropathy.  The patient continues to have
   nephropathy, but no factors that would require emergent dialysis.  She
   was to follow up with renal as an outpatient, but will consult tomorrow
   for further evaluation/expedited workup and/or preparation for renal
   replacement therapy.
   - Renal consult requested; will f/u recs
   .
   #.  PAD:  The patient's site does not appear to be infected, and
   appears to be healing appropriately.  Will contact the patient's
   primary vascular surgeon this AM for evaluation.  Continue home regimen
   of [**Last Name (LF) **], [**First Name3 (LF) 119**], and plavix.
   .
   #.  Dilated Cardiomyopathy:  Presumed to be non-ischemic, however with
   history of DM, PAD she has extensive risk factors for CAD.  Will get
   TTE in AM to evaluate for worsening disease.  In the meantime, will
   hold the patient's antihypertensives of amlodipine and carvedilol and
   diuretics given unclear if the patient's clinical status will
   deteriorate overnight.  Continue [**First Name3 (LF) 119**], statin and plavix as above.
   - Follow I/Os, goal neg 500cc-1L today as above
   - TTE in AM
   .
   #.  Coagulopathy:  All of the patient's coagulation factors are
   elevated.  She is not currently on coumadin, only [**First Name3 (LF) **] and plavix.  LFTs
   wnl.  This is most likely related to hypothermia and poor nutritional
   status.  Will check albumin.  Continue to trend.
   .
   #.  DM:  Will halve patient's home lantus given hypoglycemia this am
   and patient
s poor PO intake.  SS insulin PRN.
   .
   #   Hypothyroidism:  TSH only marginally elevated at 5.0.  Will add on
   Free T4, and T3 but suspect will be within normal limits.  Continue
   home levothyroxine dose.
   .
   #.  Anemia:  At baseline, due to anemia of chronic disease on Epogen.
   Continue to monitor.
   ICU Care
   Nutrition: Low sodium, diabetic renal diet.  Replete lytes PRN
   Glycemic Control:  lantus and insulin SS
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments: bowel regimen with senna and colace prn
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of
   attorney, [**Telephone/Fax (3) 10585**]
   Code status: Full Code confirmed with patient
   Disposition: [**Hospital Unit Name 4**] for now, possible callout following results of CXR

2187-12-29 09:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60yo F PMH CKD, DMT2, PVD, idiopathic DCM EF 50%, hypothyroidism and
   hypertension who presents with malaise, hypothermia and hypoxemia as
   well as bilateral pleural effusions; has been re-warmed and received
   broad spectrum antibiotics.
   24 Hour Events:
   Hemodynamically stable overnight, temp trending back down.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-28**] 11:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2187-12-28**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-29**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.6
C (96.1
   HR: 69 (55 - 69) bpm
   BP: 141/50(73) {123/44(65) - 142/62(82)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 93%
             Total In:
                                                                    270 mL
                                                                    200 mL
   PO:
                                                                    120 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    150 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    290 mL
   Urine:
                                                                    450 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.6 g/dL
   257 K/uL
   43 mg/dL
   3.7 mg/dL
   12 mEq/L
   5.1 mEq/L
   112 mg/dL
   115 mEq/L
   144 mEq/L
   24.1 %
   7.5 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
   WBC
   4.9
   7.5
   Hct
   25.1
   24.1
   Plt
   249
   257
   Cr
   3.5
   3.7
   TropT
   0.06
   Glucose
   95
   43
   Other labs: PT / PTT / INR:16.9/34.6/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:82.7 %, Lymph:13.4 %, Mono:2.8 %, Eos:0.9 %, LDH:187
   IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 Hypoxemia: likely due to compressive atelectasis with some component
   of edema, could be heart failure v. parapneumonic effusions
   - in for [**Last Name (LF) **], [**First Name3 (LF) 124**] get PA/lateral chest xray to assess pleural
   effusions and for consolidation
   - LENIs odered overnight, awaiting result
   - saturating well on oxygen, being covered for CAP/HAP
   (vanc/zosyn/levo) and flu until imaging and flu swab return
   - vanc trough this afternoon
   - since not appearing to be in [**Last Name (LF) **], [**First Name3 (LF) 124**] restart diuretics with goal
   body balance - 500 to 1L
 Hypothermia: very unclear picture, may be related to infection v.
   exposure (she denies) v. hypothyroidism, but less likely, no clear
   evidence of toxic ingestion
   -  covering for infection awaiting cultures and flu swab
   - appears to be resolving, but continues on Bair hugger
   - check T3/T4
Chronic renal failure
   - discussed with renal service this morning, will come to evaluate
   - continue home medications
PAD: will d/w vascular re: appearance of R 1st toe and further workup
   needed
Sinus bradycardia, stable
   - restart home medications one at a time
Anemia: at baseline, on epogen as outpatient
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: lantus and sliding scale
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2187-12-30 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -vanc trough elevated at 17, put in for am level
   -echo: will get tomorrow
   -lenis: wetread neg for DVT (final not back until Monday)
   -nephrology: recommended bicarb 2 amps with lasix, will need to f/u
   attending recs tomorrow
   -vascular: seen, states eschar looks normal, described as "social
   visit"
   -restarted beta-blocker (should try to add amlodipine tomorrow)
   -TFTs: Low T3, NL FT4.  Wasnt sure entirely what to make of this.
   Added others on which were normal including TBG.
   -UOP: net neg 200 cc at 4pm, gave another 40mg lasix
   -flu negative so d/c'd precautions and tamiflu
   -put in for am CXR given worsening b/l effusions on PA/LA today.  For
   this reason, not tapped, but diuresed more
   -Na rising in pm to 149, so held off on further diuresis, negative 377
   for day
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-29**] 04:50 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2187-12-29**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2187-12-30**] 12:00 AM
   Dextrose 50% - [**2187-12-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-30**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 66 (56 - 76) bpm
   BP: 157/61(85) {124/47(70) - 157/70(90)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    868 mL
                                                                    300 mL
   PO:
                                                                    390 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    328 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    410 mL
   Urine:
                                                                  1,085 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -217 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Gen: awake and alert, generally chronically ill-appearing female
   HEENT: NCAT, PERRL, OP clear, MMM
   CV: Regular rhythm, normal rate. 2/6 systolic murmur at RUSB.
   Pulm: crackles at left base, halfway up on right
   ABDOMEN: NABS. Soft, NT, ND. No HSM, hypoactive BS
   EXTREMITIES:  All toes amputated on left foot, first toe amputation on
   right, with surrounding erythema overlying eschar no drainage, no
   fluctuance.  BL LE edema +1.  No calf pain, 1+ dorsalis pedis/
   posterior tibial pulses.
   Labs / Radiology
   201 K/uL
   7.7 g/dL
   61 mg/dL
   4.0 mg/dL
   18 mEq/L
   4.7 mEq/L
   110 mg/dL
   120 mEq/L
   152 mEq/L
   24.0 %
   7.8 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
   WBC
   4.9
   7.5
   7.8
   Hct
   25.1
   24.1
   24.0
   Plt
   249
   257
   201
   Cr
   3.5
   3.7
   3.7
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   Other labs: PT / PTT / INR:17.0/38.4/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:6.0
   %, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.5 mg/dL
   Vanco: 15.4
   PITUITARY
                                     TSH
   [1][**2187-12-28**] 05:30PM
                                    5.0*
   [**Last Name (un) **] ADDED ON [**2187-12-28**] AT 1745
   THYROID
                                     T4
                                     T3
                                   calcTBG
                                   TUptake
                                   T4Index
                                   Free T4
   [2][**2187-12-29**] 05:56AM
                                     6.9
                                     40*
                                    0.93
                                    1.08
                                     7.5
                                     1.2
   Microbiology: [**12-29**] influenza DFA final negative
   [**12-28**] U Cx final no growth
   [**12-28**] Blood Cx pend
   CXR today in OMR
   CXR [**12-29**]
   There is interval additional progression of pulmonary edema, being
   currently
   moderate to severe. Bilateral pleural effusions are present, moderate
   to
   large as well as bibasilar atelectasis. Underlying infection might
   potentially be present, although very difficult to evaluate, currently
   with
   such a significant amount of pulmonary edema obscuring most of the lung
   fields.
   LENIs: no evidence of right or left leg DVT
   Assessment and Plan
   60 yo female with history of CKD, idiopathic dilated cardiomyopathy EF
   50-55%, hypothyroidism, hypertension, PAD, DM admitted for hypothermia
   and hypoxia.
   .
 HYPOXEMIA:  The patient has evidence of new bilateral pleural
   effusions compared to CXR on [**2187-11-4**].  Differential includes
   parapneumonic effusion, flu or other viral illness, worsening heart
   failure or least likely PE.  The patient does not have a convincing
   history for pneumonia, especially considering lack of leukocytosis and
   sputum production.  The patient has history of dilated cardiomyopathy
   with most recent echo in [**2-19**] demonstrating preserved EF of 50-55%.
   However, today's CXR shows cardiomegaly and CEs mildly elevated (though
   this is at her baseline) and no ECG changes.  Least likely to be PE,
   however will rule out with LENIs in AM.  Will treat empirically for
   HAP, rule out flu and maintain even fluid balance to treat both
   potential etiologies with further workup in AM.
   - CE slightly elevated but at pt
s baseline x 2
   - will get PA and Lat CXR to better evaluate for consolidation and
   size/symmetry of effusions
   - consider diagnostic thoracentesis this AM
   - Supplemental O2 PRN
   - TTE in AM to determine systolic function
   - LENIS in AM
   - Empiric antibiotics with vancomycin/zosyn/levofloxacin; will narrow
   as appropriate
   - will recheck vanc trough at noon
   - gentle diuresis today with goal 500-1L neg
   - Droplet precautions, tamiflu until DFA returns
   .
 HYPOTHERMIA:  The patient was markedly hypothermic on admission
   without history of exposure, confirmed with patient and her HCP.  The
   patient's hypothermia may be secondary to systemic stress in the
   setting of multiple comorbidities including hypothyroidism, however TSH
   and cortisol within normal limits.  Cannot exclude overwhelming
   infection as cause of hypothermia, however less likely given lack of
   leukocytosis, tachycardia, or hypotension.  However, will treat
   empirically for pulmonary and skin source of infection until blood
   cultures return negative.
   - Empiric antibiotics of vanc/levo/zosyn for nosocomial infection as
   above
   - F/U culture data
   - Continue home dose of levothyroxine
   - Continue to rewarm
   .
   #.  Sinus Bradycardia:  Likely secondary to the patient's home CCB and
   betablocker dosing given recent visit to outpatient cardiologist HR was
   also in the 50s.
   - will restart carvedilol this am, and amlodopine in PM if remains
   stable
   .
   #.  Non-gap metabolic acidosis:  Most likely secondary to patient's
   chronic renal failure, although mildly worse than baseline.  Will
   continue to monitor and replete bicarb as needed.
   .
   #.  Chronic Kidney Disease:  The patient's current renal function is at
   baseline, but very elevated.  Renal has been consulted in the past for
   evaluation, thought to be secondary to diabetic nephropathy worsened by
   contrast induced nephropathy.  The patient continues to have
   nephropathy, but no factors that would require emergent dialysis.  She
   was to follow up with renal as an outpatient, but will consult tomorrow
   for further evaluation/expedited workup and/or preparation for renal
   replacement therapy.
   - Renal consult requested; will f/u recs
   .
   #.  PAD:  The patient's site does not appear to be infected, and
   appears to be healing appropriately.  Will contact the patient's
   primary vascular surgeon this AM for evaluation.  Continue home regimen
   of [**Last Name (LF) **], [**First Name3 (LF) 119**], and plavix.
   .
   #.  Dilated Cardiomyopathy:  Presumed to be non-ischemic, however with
   history of DM, PAD she has extensive risk factors for CAD.  Will get
   TTE in AM to evaluate for worsening disease.  In the meantime, will
   hold the patient's antihypertensives of amlodipine and carvedilol and
   diuretics given unclear if the patient's clinical status will
   deteriorate overnight.  Continue [**First Name3 (LF) 119**], statin and plavix as above.
   - Follow I/Os, goal neg 500cc-1L today as above
   - TTE in AM
   .
   #.  Coagulopathy:  All of the patient's coagulation factors are
   elevated.  She is not currently on coumadin, only [**First Name3 (LF) **] and plavix.  LFTs
   wnl.  This is most likely related to hypothermia and poor nutritional
   status.  Will check albumin.  Continue to trend.
   .
   #.  DM:  Will halve patient's home lantus given hypoglycemia this am
   and patient
s poor PO intake.  SS insulin PRN.
   .
   #   Hypothyroidism:  TSH only marginally elevated at 5.0.  Will add on
   Free T4, and T3 but suspect will be within normal limits.  Continue
   home levothyroxine dose.
   .
   #.  Anemia:  At baseline, due to anemia of chronic disease on Epogen.
   Continue to monitor.
   ICU Care
   Nutrition: Low sodium, diabetic renal diet.  Replete lytes PRN
   Glycemic Control:  lantus and insulin SS
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:
   VAP:
   Comments: bowel regimen with senna and colace prn
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of
   attorney, [**Telephone/Fax (3) 10585**]
   Code status: Full code confirmed with patient
   Disposition: [**Hospital Unit Name 4**] for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_35%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_36%22);

2187-12-30 12:19:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypothermia, fatigue
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60yo F with PMH PVD, CAD, DMT2 and hypothyroidism who presents with
   hypothermia and bradycardia, has been hemodynamically stable but has
   significant pulmonary edema on CXR and ongoing hypoxemia.  Diuresis was
   less agressive overnight given an increase in her serum sodium.
   24 Hour Events:
   - PA/LAT chest x-ray showed increased pulmonary edema and bilateral
   effusions
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-30**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-29**] 04:50 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2187-12-29**] 05:26 PM
   Heparin Sodium (Prophylaxis) - [**2187-12-30**] 12:00 AM
   Dextrose 50% - [**2187-12-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  would like to leave the hospital
   Flowsheet Data as of  [**2187-12-30**] 12:19 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.1
C (95.2
   HR: 68 (56 - 76) bpm
   BP: 151/70(92) {134/50(71) - 160/70(92)} mmHg
   RR: 19 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    868 mL
                                                                    344 mL
   PO:
                                                                    390 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    328 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    610 mL
   Urine:
                                                                  1,085 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -217 mL
                                                                   -266 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General: awake, alert
   HEENT/Neck: anicteric, mmm, no oral lesions
   Pulmonary: crackles 2/3 up lung fields, dullness at the bases
   bilaterally, moderate air entry, no wheezing
   Cardiovascular: distant, normal S1S2, no rub or murmur
   Abdomen: soft, non-tender, (+) bowel sounds, no masses
   Extremities: warm, no edema, L foot with toe amputations, R 1^st toe
   with necrotic eschar and minimal erythema and tenderness proximally
   Neurologic: oriented, appropriate,no asterixis
   Labs / Radiology
   7.7 g/dL
   201 K/uL
   61 mg/dL
   4.0 mg/dL
   18 mEq/L
   4.7 mEq/L
   110 mg/dL
   120 mEq/L
   152 mEq/L
   24.0 %
   7.8 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
   WBC
   4.9
   7.5
   7.8
   Hct
   25.1
   24.1
   24.0
   Plt
   249
   257
   201
   Cr
   3.5
   3.7
   3.7
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   Other labs: PT / PTT / INR:17.0/38.4/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:6.0
   %, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.5 mg/dL
   Assessment and Plan
   60yo F with idiopathic dilated cardiomyopathy, PVD, DMT2 and
   hypothyroidism who p/w hypothermia and bilateral pleural effusions.
 Hypothermia: back on Bair hugger overnight for temp 94, stilll
   unclear etiology
   - no evidence for adrenal insufficiency, does not appear septic,
   thyroid studies are relatively normal, consider head CT to r/u
   hypothalamic process/mass thoughn w/o other neurologic symptoms
   - on vanc/zosyn/levofloxacin
 Hypoxemia
   - likely due to volume overload, significant pulmonary edema on CXR and
   physical exam
   - will need diuresis today with lasix 80mg IV to goal body balance -1L
   - on vanc/zosyn/levofloxacin, difficult to exclude infiltrate on
   abnormal CXR, will continue for now
   - vanc level 15 about 30 hours after dose, will write for 750mg daily
   - effusions appear to be due to volume overload
 Hypernatremia
   - likely due to poor free water intake
   - start D5W drip at 50cc/hr x 1 L, encourage PO
   - check PM lytes
 Renal Failure/Metabolic acidosis
   - creatinine slightly up, will follow with diuresis
   - bicarb now at her baseline
 Cardiomyopathy
   - diuresis as above
   - awaiting TTE to assess current function
 Hypothyroidism: unlikely to be significantly contributing to the
   picture
   - continue on home thyroid replacement
 DMT2
   - since plan for D5W fluids, will give her Lantus this morning
 Bradycardia/Hypertension
   - restart home amlodipine today
   - continue beta blocker
 Peripheral vascular disease
   - continue home regimen
   - per vascular, foot exam is at baseline
   ICU Care
   Nutrition:
    Po diet
   Glycemic Control:  Comments: Lantus and RISS
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(senna and colace)
   Stress ulcer: Not indicated
   Communication:  with patient and friend, who is power of attorney
   Code status: Full code
   Disposition :ICU unless able to stay off of Bair hugger
   Total time spent: 30 minutes

2187-12-31 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal: Check ABG (we checked VBG) and try to diurese her
   - Didn't put out very well to 80mg IV lasix so gave 160mg IV Lasix plus
   5mg metolazone beforehand, which she put out much better to (100cc/hr x
   3-4 hrs)
   - Iron studies showed ACD
   - patient required warming with bair hugger again overnight
   This AM, patient reports breathing feels fine, denies significant
   cough.  No fevers or chills overnight, no abdominal or other pain.
   Poor appetite.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Vancomycin - [**2187-12-30**] 04:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-31**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-30**] 06:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-31**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
F), Tmin 94.3
   Tcurrent: 35.9
C (96.6
   HR: 62 (57 - 70) bpm
   BP: 154/60(77) {127/47(71) - 160/72(92)} mmHg
   RR: 15 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,452 mL
                                                                    434 mL
   PO:
                                                                  1,220 mL
             TF:
   IVF:
                                                                  1,207 mL
                                                                    434 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    660 mL
   Urine:
                                                                  1,340 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: High flow neb at 60% FiO2
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   Gen: awake and alert, generally chronically ill-appearing female
   CV: Regular rhythm, normal rate. 2/6 systolic murmur at RUSB.
   Pulm: Crackles halfway up lung fields bilaterally
   ABDOMEN: NABS. Soft, NT, ND. No HSM, hypoactive BS
   EXTREMITIES:  All toes amputated on left foot, first toe amputation on
   right, with surrounding erythema overlying eschar no drainage, no
   fluctuance.  LUE 2+ edema.
   Labs / Radiology
   199 K/uL
   7.2 g/dL
   100 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   103 mg/dL
   112 mEq/L
   144 mEq/L
   21.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
                            [**2187-12-30**]  04:40 PM
                            [**2187-12-31**]  03:26 AM
   WBC
   4.9
   7.5
   7.8
   7.6
   Hct
   25.1
   24.1
   24.0
   21.9
   Plt
   249
   257
   201
   199
   Cr
   3.5
   3.7
   3.7
   4.0
   3.9
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   115
   100
   Other labs: PT / PTT / INR:17.0/38.4/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:6.0
   %, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.5 mg/dL
   Vanco level: 26.2
   TOXICOLOGY, URINE
                                   bnzodzp
                                   barbitr
                                   opiates
                                   cocaine
                                   amphetm
                                   mthdone
   [1][**2187-12-30**] 04:55PM
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
                                     NEG
   Imaging: CXR [**12-30**]: There are low lung volumes. Mild-to-moderate
   cardiomegaly is unchanged.  Allowing the difference in positioning of
   the patient, bilateral pleural
   effusion, bibasilar atelectasis, and moderate pulmonary edema are
   stable.
   CXR this AM: Bilateral pleural effusions not significantly changed from
   prior
   TTE pending
   Microbiology: [**12-29**] Influenza DFA neg
   [**12-28**] Urine cx Neg
   [**12-28**] Blood Cx pending
   Assessment and Plan
   60 yo female with history of CKD, idiopathic dilated cardiomyopathy EF
   50-55%, hypothyroidism, hypertension, PAD, DM admitted for hypothermia
   and hypoxia.
   .
 HYPOXEMIA:  Currently patient appears volume overloaded on physical
   exam and CXR.  Feel that this is due to aggressive fluid resuscitation
   on admission, and original hypoxia on admission may have been due to
   pneumonia.
   - Continue diuresis today.  Didn
t put out all that much urine to 80mg
   IV lasix yesterday so gave 160 IV plus metolazole; will give again
   today as patient still positive [**Location **] will address need for dialysis in conjuction with renal team today
   - Supplemental O2 PRN
   - TTE today to determine systolic function
   - LENIS negative
   -  Will stop empiric antibiotics with vancomycin/zosyn/levofloxacin for
   possible pneumonia today (given [**Date range (1) 10623**]), with low threshold to
   restart if febrile.
   .
 HYPOTHERMIA:  The patient was markedly hypothermic on admission
   without history of exposure, confirmed with patient and her HCP.  The
   patient's hypothermia may be secondary to systemic stress in the
   setting of multiple comorbidities including hypothyroidism, however TSH
   and cortisol within normal limits.  Cannot exclude overwhelming
   infection as cause of hypothermia, however less likely given lack of
   leukocytosis, tachycardia, or hypotension.  Still requiring warming
   overnight.
   - stop empiric abx as above
   - F/U culture data
   - Continue home dose of levothyroxine
   - head MRI w/o contrast to evaluate for possible central cause of
   hypothermia
   .
   # Anemia, now with Hct drop: 24 to 22 this AM.  24 is patient
   baseline secondary to renal disease.  Will likely transfuse one unit
   with dialysis if gets dialyzed within next several days.
   - check PM Hct
   .
   #.  Sinus Bradycardia:  Likely secondary to the patient's home CCB and
   betablocker dosing given recent visit to outpatient cardiologist HR was
   also in the 50s.
   - Have restarted carvedilol and amlodopine
   .
   #.  Non-gap metabolic acidosis:  Most likely secondary to patient's
   chronic renal failure, although mildly worse than baseline.
   - Will continue to monitor and replete bicarb as needed, now back at
   baseline
   .
 HYPERNATREMIA (HIGH SODIUM): Increasing free water deficit in setting
   of poor po intake and diuresis.  Improved with increased free water
   intake and D5W infusion.  Will continue to monitor.
   - pm lytes
   .
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   :  The patient's current renal function is at baseline, but very
   elevated.
   - FU renal recs
   - Creatinine slightly increased, but close to baseline
   .
   #.  PAD:  The patient's site does not appear to be infected, and
   appears to be healing appropriately.
   - Appreciate visit by vascular surgery; foot ulcers at baseline
   - Continue home regimen of [**Last Name (LF) **], [**First Name3 (LF) 119**], and plavix.
   .
   #.  Dilated Cardiomyopathy:  Presumed to be non-ischemic, however with
   history of DM, PAD she has extensive risk factors for CAD
   - Continue [**First Name3 (LF) 119**], statin and plavix as above.
   - Restart home hypertensives
   - TTE as above
   .
   #.  Coagulopathy:  All of the patient's coagulation factors are
   elevated.  She is not currently on coumadin, only [**First Name3 (LF) **] and plavix.  LFTs
   wnl.  This is most likely related to hypothermia and poor nutritional
   status.
   .
 .H/O DIABETES MELLITUS (DM), TYPE II:  Will hold patient's home
   lantus given hypoglycemia and patient
s poor PO intake.  SS insulin
   PRN.
   - Will give hold Lantus until patient taking enough PO to require SS
   .
   #   Hypothyroidism:  TSH only marginally elevated at 5.0, other thyroid
   studies also wnl
   - Continue home levothyroxine dose.
   .
   ICU Care
   Nutrition: heart healthy, renal diet
   Glycemic Control:  lantus and insulin SS
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP:
   Comments: Bowel regimen with colace and senna
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of
   attorney, [**Telephone/Fax (3) 10585**]
   Code status: Full code confirmed with patient
   Disposition: ICU for now, callout when off bair hugger for 24 hours
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_66%22);

2187-12-31 10:57:00 Physician Attending Progress Note
Chief Complaint: hypothermia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60yo F with idiopathic dilated cardiomyopathy, PVD, DMT2 and
   hypothyroidism who p/w hypothermia and bilateral pleural effusions.
   24 Hour Events:
   continued attempts at diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Vancomycin - [**2187-12-30**] 04:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-31**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-30**] 06:45 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-12-31**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 69 (57 - 70) bpm
   BP: 120/58(86) {120/47(71) - 154/72(92)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66 kg (admission): 67 kg
   Height: 60 Inch
             Total In:
                                                                  2,452 mL
                                                                    577 mL
   PO:
                                                                  1,220 mL
             TF:
   IVF:
                                                                  1,207 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    820 mL
   Urine:
                                                                  1,340 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   199 K/uL
   100 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   103 mg/dL
   112 mEq/L
   144 mEq/L
   21.9 %
   7.6 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
                            [**2187-12-30**]  04:40 PM
                            [**2187-12-31**]  03:26 AM
   WBC
   4.9
   7.5
   7.8
   7.6
   Hct
   25.1
   24.1
   24.0
   21.9
   Plt
   249
   257
   201
   199
   Cr
   3.5
   3.7
   3.7
   4.0
   3.9
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   115
   100
   Other labs: PT / PTT / INR:17.0/38.4/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:6.0
   %, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.5 mg/dL
   Fluid analysis / Other labs: vanco level 26.2
   u/a neg
   Imaging: cxr--b/l effusions
   TEE-- [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 10614**], RA enlarged, PASP 31
   Microbiology: bl/urine [**12-28**]--pending
   Assessment and Plan
   60yo F with idiopathic dilated cardiomyopathy, PVD, DMT2 and
   hypothyroidism who p/w hypothermia and bilateral pleural effusions.
    Primary issues include:
   # Hypothermia: stilll unclear etiology
   - no evidence for adrenal insufficiency, does not appear septic,
   thyroid studies are relatively normal,
   --consider head MRI to r/o hypothalamic process/mass though w/o other
   neurologic symptoms
   --has received 4 days of empiric antbx with neg cxs.  Will d/c and
   follow clinical status closely
   # Hypoxemia
   - likely due to volume overload, significant pulmonary edema and
   effusions on CXR and physical exam
   --continue efforts to diurese thought minimal response and likely
   heading toward HD for fluid removal
   --f/u TTE results
   # Hypernatremia
   - likely due to poor free water intake
   - improved with free water
   --encourage PO
    # Renal Failure/Metabolic acidosis, uremia
   --heading toward HD
   --continue discussions with rpt and renal team, as we have made little
   progress with fluid removal using IV diuretics
   - bicarb now at her baseline
   # Cardiomyopathy
   - diuresis as above
   - awaiting TTE to assess current function
   # Hypothyroidism: unlikely to be significantly contributing to the
   picture
   - continue on home thyroid replacement
   # DMT2
   Poor PO, SSI
   # Peripheral vascular disease
   - continue home regimen
   - per vascular, foot exam is at baseline
    Remainder as per resident note
   ICU Care
   Nutrition:  PO renal diet as tolerated, nutrition consult
   Glycemic Control:  Regular insulin sliding scale, Comments: glargine
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, could transfer to floor once hypothermia improves
   without need for bair hugger
   Total time spent: 40 minutes
   Patient is critically ill

2188-01-01 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -refused MRI because overwhelmed and has claustrophobia.  did not push
   her.
   -gave 160 IV lasix and metolazone, put out for a few hours
   Renal recs: restart epo, check urine prot/cr ratio, PTH and Vit D,
   bladder pressure, consider thoracentesis.  Do not think there is any
   urgency to starting dialysis.
   TTE: still pending
   -PTH high 176, bladder pressure:15, Urine P/Cr:2.3, vitamin D pend
   -Nutrition recs:   renal/diabetic frappes, encourage PO intake
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Vancomycin - [**2187-12-30**] 04:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-31**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-31**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-1**] 12:24 AM
   Other medications:
   12. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  Order date:
   [**12-28**] @ [**2179**]
   2. Amlodipine 10 mg PO/NG DAILY
   hold for sbp < 100 or hr < 55  Order date: [**12-30**] @ 1219 13. Heparin
   5000 UNIT SC TID  Order date: [**12-28**] @ 2306
   3. Aspirin 325 mg PO/NG DAILY  Order date: [**12-28**] @ [**2179**] 14. Insulin SC
   Hold Dose unit of Glargine ONCE on [**2187-12-30**] @ 2200, Resume [**12-31**] Order
   date: [**12-31**] @ 0557
   4. Atorvastatin 80 mg PO/NG DAILY  Order date: [**12-28**] @ [**2179**] 15. Insulin
   SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**12-31**] @ 1055
   5. Carvedilol 25 mg PO/NG [**Hospital1 **]
   hold for HR<60, SBP<100  Order date: [**12-29**] @ 0931 16. Levothyroxine
   Sodium 25 mcg PO/NG DAILY  Order date: [**12-28**] @ [**2179**]
   6. Clopidogrel 75 mg PO/NG DAILY  Order date: [**12-28**] @ [**2179**] 17.
   Metolazone 5 mg PO ONCE Duration: 1 Doses
   Please give 30 minutes before lasix dose   Order date: [**12-31**] @ 1050
   7. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol  Order date: [**12-28**]
   @ [**2179**] 18. Metolazone 5 mg PO ONCE Duration: 1 Doses
   give 30 mins prior to lasix dose  Order date: [**12-31**] @ [**2189**]
   8. Docusate Sodium 100 mg PO BID  Order date: [**12-28**] @ 2310 19. Senna 1
   TAB PO/NG [**Hospital1 **]:PRN constipation  Order date: [**12-28**] @ 2310
   9. Epoetin Alfa 4000 UNIT SC QMOWEFR Start: HS Order date: [**12-31**] @ 1651
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**12-28**] @ [**2179**]
   10. Furosemide 160 mg IV ONCE Duration: 1 Doses Order date: [**12-31**] @
   1050 21. sevelamer HYDROCHLORIDE 800 mg PO TID W/MEALS  Order date:
   [**12-28**] @ 2337
   11. Furosemide 200 mg IV ONCE Duration: 1 Doses
   give metolazone prior  Order date: [**12-31**] @ [**2189**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-1**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 70 (59 - 70) bpm
   BP: 148/60(83) {120/48(69) - 165/73(89)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66 kg (admission): 67 kg
   Height: 60 Inch
    Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                    817 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    690 mL
   Urine:
                                                                  1,675 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -858 mL
                                                                   -690 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   7.4 g/dL
   70 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   100 mg/dL
   114 mEq/L
   146 mEq/L
   23.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
                            [**2187-12-30**]  04:40 PM
                            [**2187-12-31**]  03:26 AM
                            [**2187-12-31**]  07:06 PM
                            [**2188-1-1**]  05:32 AM
   WBC
   4.9
   7.5
   7.8
   7.6
   7.9
   Hct
   25.1
   24.1
   24.0
   21.9
   22.9
   23.1
   Plt
   249
   257
   201
   199
   194
   Cr
   3.5
   3.7
   3.7
   4.0
   3.9
   4.0
   4.0
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   115
   100
   117
   70
   Other labs: Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:5.9
   mg/dL
   PTH176
   Other Urine Chemistry:
   Creat:28
   TotProt:64
   Prot/Cr:2.3
   Microbiology: blood 12/18 pending
   urine [**12-28**] neg
   influenza negative [**12-29**]
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O HYPERTENSION, BENIGN
 .H/O DIABETES MELLITUS (DM), TYPE II
 HYPOXEMIA
 HYPOTHERMIA
   60 yo female with history of CKD, idiopathic dilated cardiomyopathy EF
   50-55%, hypothyroidism, hypertension, PAD, DM admitted for hypothermia
   and hypoxia.
 HYPOXEMIA:  Currently patient appears volume overloaded on physical
   exam and CXR.  Feel that this is due to aggressive fluid resuscitation
   on admission, and original hypoxia on admission may have been due to
   pneumonia.
   - Continue diuresis today.  Patient responding to Lasix 160 +
   Metolazone 5.    Continue today.
   - will readdress need for dialysis in conjuction with renal team today,
   though it sounds nonurgent
   - Supplemental O2 PRN
   - f/u final TTE
   -  stopped empiric antibiotics with vancomycin/zosyn/levofloxacin for
   possible pneumonia today (given [**Date range (1) 10623**]), with low threshold to
   restart if febrile.
   .
 HYPOTHERMIA:  The patient was markedly hypothermic on admission
   without history of exposure, confirmed with patient and her HCP.  The
   patient's hypothermia may be secondary to systemic stress in the
   setting of multiple comorbidities including hypothyroidism, however TSH
   and cortisol within normal limits.  Cannot exclude overwhelming
   infection as cause of hypothermia, however less likely given lack of
   leukocytosis, tachycardia, or hypotension.  Did not require rewarming
   overnight
   - F/U culture data
   - Continue home dose of levothyroxine
   - head MRI w/o contrast to evaluate for possible central cause of
   hypothermia will need to readdress with patient in future though
   currently refusing
   .
   #  Hyperparathyroidism: PTH elevated.  ? if tertiary hyperparathyroid
   due to RF
   # Anemia, now with Hct drop: low but stable.  24 is patient
s baseline
   secondary to renal disease.  Will likely transfuse one unit with
   dialysis if gets dialyzed within next several days.
   - restarted epo
   .
   #.  Sinus Bradycardia:  Likely secondary to the patient's home CCB and
   betablocker dosing given recent visit to outpatient cardiologist HR was
   also in the 50s.
   - Have restarted carvedilol and amlodopine
   .
   #.  Acidosis:  Now with an AG of 15.  Previously NAG. Most likely
   secondary to patient's chronic renal failure, although mildly worse
   than baseline.  Could be due to ketones from poor nutrition.
   - Will continue to monitor and replete bicarb as needed, now back at
   baseline
   .
 HYPERNATREMIA (HIGH SODIUM): Increasing free water deficit in setting
   of poor po intake and diuresis.  Improved with increased free water
   intake and D5W infusion.  Will continue to monitor.
   - pm lytes
   .
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
   :  The patient's current renal function is at baseline, but very
   elevated.
   - FU renal recs
   - Creatinine slightly increased, but close to baseline
   .
   #.  PAD:  The patient's site does not appear to be infected, and
   appears to be healing appropriately.
   - Appreciate visit by vascular surgery; foot ulcers at baseline
   - Continue home regimen of [**Last Name (LF) **], [**First Name3 (LF) 119**], and plavix.
   .
   #.  Dilated Cardiomyopathy:  Presumed to be non-ischemic, however with
   history of DM, PAD she has extensive risk factors for CAD
   - Continue [**First Name3 (LF) 119**], statin and plavix as above.
   - Restart home hypertensives
   - f/u TTE read
   .
   #.  Coagulopathy:  All of the patient's coagulation factors are
   elevated.  She is not currently on coumadin, only [**First Name3 (LF) **] and plavix.  LFTs
   wnl.  This is most likely related to hypothermia and poor nutritional
   status.
   .
 .H/O DIABETES MELLITUS (DM), TYPE II:  Will hold patient's home
   lantus given hypoglycemia and patient
s poor PO intake.  SS insulin
   PRN.
   - Will give hold Lantus until patient taking enough PO to require SS
   .
   #   Hypothyroidism:  TSH only marginally elevated at 5.0, other thyroid
   studies also wnl
   - Continue home levothyroxine dose.
   ICU Care
   Nutrition: heart healthy, renal diet
   Glycemic Control:  lantus and insulin SS
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: none
   VAP:
   Comments: Bowel regimen with colace and senna
   Communication:  Comments: Patient and [**First Name8 (NamePattern2) 10577**] [**Last Name (NamePattern1) 3746**], power of
   attorney, [**Telephone/Fax (3) 10585**]
   Code status: Full code confirmed with patient
   Disposition: ?c/o today given decreased neeed for bear hugger

2188-01-01 12:21:00 Physician Attending Progress Note
Chief Complaint: hypoxia, hypothermia, CRI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 F with idiopathic dilated cardiomyopathy, PVD, DMT2 and
   hypothyroidism who p/w hypothermia and bilateral pleural effusions.
   24 Hour Events:
   epogen restarted,
   continued attempts at diuresis with metolazone and lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2187-12-29**] 10:00 PM
   Vancomycin - [**2187-12-30**] 04:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2187-12-31**] 04:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2187-12-31**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2188-1-1**] 12:24 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-1-1**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 62 (59 - 70) bpm
   BP: 155/55(81) {133/48(69) - 165/73(89)} mmHg
   RR: 17 (13 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66 kg (admission): 67 kg
   Height: 60 Inch
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                    817 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    850 mL
   Urine:
                                                                  1,675 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -858 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   194 K/uL
   70 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   100 mg/dL
   114 mEq/L
   146 mEq/L
   23.1 %
   7.9 K/uL
        [image002.jpg]
                            [**2187-12-28**]  05:30 PM
                            [**2187-12-28**]  11:24 PM
                            [**2187-12-29**]  05:56 AM
                            [**2187-12-29**]  06:57 PM
                            [**2187-12-30**]  04:09 AM
                            [**2187-12-30**]  04:40 PM
                            [**2187-12-31**]  03:26 AM
                            [**2187-12-31**]  07:06 PM
                            [**2188-1-1**]  05:32 AM
   WBC
   4.9
   7.5
   7.8
   7.6
   7.9
   Hct
   25.1
   24.1
   24.0
   21.9
   22.9
   23.1
   Plt
   249
   257
   201
   199
   194
   Cr
   3.5
   3.7
   3.7
   4.0
   3.9
   4.0
   4.0
   4.0
   TropT
   0.06
   Glucose
   95
   43
   92
   61
   115
   100
   117
   70
   Other labs: PT / PTT / INR:17.0/38.4/1.5, CK / CKMB /
   Troponin-T:71/11/0.06, ALT / AST:28/28, Alk Phos / T Bili:130/0.2,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:6.0
   %, Albumin:3.3 g/dL, LDH:187 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.9 mg/dL
   Imaging: no new imaging, TTE reviewed
   Microbiology: [**12-28**] bl pending, urine neg
   Assessment and Plan
   60 F with idiopathic dilated cardiomyopathy, PVD, DMT2 and
   hypothyroidism who p/w hypothermia and bilateral pleural effusions and
   pulm edema
    Primary issues include:
   # Hypothermia: etiology remains unclear, improved
   - no evidence for adrenal insufficiency, does not appear septic,
   thyroid studies do not explain
   --have considered head MRI to r/o hypothalamic process/mass though w/o
   other neurologic signs, but pt declined
   --s/p received 4 days of empiric antbx with neg cxs.
   # Hypoxemia
   - appears [**2-12**] volume overload--significant pulmonary edema and
   effusions on CXR and physical exam
   --yesterday with improved response to efforts at diruesis, wuill
   continue attempts at fluid removal
   and likely heading toward HD for fluid removal
   given b/l effusions and edema, unlikely that thoracentesis to be
   helpful
   # hypernatremia
encourage PO fluids
   # CRF/Metabolic acidosis/uremia
   --heading toward HD as we have had little success improving fluid
   status and resp status with diruesis attempts
   - bicarb now at her baseline
   # Cardiomyopathy
   - diuresis as above
   - awaiting TTE to assess current function
   # Hypothyroidism:
   - continue on thyroid replacement
   # T2DM
   Poor PO, SSI to avoid hypoglycemia
   # PVD
   - continue home regimen
   - per vascular, foot exam is at baseline and does not appear actively
   infected
    Remainder as per resident note
    Will consult PT  Sw inpout appreciated
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2187-12-28**] 07:00 PM
   20 Gauge - [**2187-12-28**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to floor
   Total time spent: 40 minutes